US03946022
A mixture of 41.5 g (0.15 mole) of α,α-diphenyl-4-piperidinemethanol, 38.6 g (0.17 mole) of 5-chloro-4'-methoxyvalerophenone, 30 g of potassium bicarbonate, and 0.19 g of potassium iodide in 500 ml of toluene and 70 ml of water is stirred and refluxed for 136 hours. The organic layer is separated and combined with toluene extracts of the aqueous layer. The combined organic material is washed with water and saturated sodium chloride solution, dried over magnesium sulfate and filtered. The filtrate is diluted with ether and made acidic with ethereal HCl. The resulting precipitate is recrystallized from methanol-butanone to give 5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxyvalerophenone hydrochloride, M.P. 211°-213°C.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.15 mole, 41.5 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 5-chloro-4'-methoxyvalerophenone | 0.17 mole, 38.6 g | ClCCCCC(=O)C1=CC=C(C=C1)OC | C12H15ClO2
reactant | potassium bicarbonate | 30 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.19 g | [I-].[K+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 70 ml | O | H2O
product | 5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxyvalerophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC=C(C=C1)OC | InChI=1S/C30H35NO3.ClH/c1-34-28-17-15-24(16-18-28)29(32)14-8-9-21-31-22-19-27(20-23-31)30(33,25-10-4-2-5-11-25)26-12-6-3-7-13-26;/h2-7,10-13,15-18,27,33H,8-9,14,19-23H2,1H3;1H
